Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
elevated temp, nausea
 
Major Surgical or Invasive Procedure:
PTBD replacement.

 
History of Present Illness:
___ year old male with stage IV cholangiocarcinoma on active
surveillance since ___ s/p R PTBD and percutaneous
cholecystostomy tube both since ___. was discharged last
month after admission for cholangitis w/ sepsis, had PTBD ballon
sweep and stent exchange by ___ and was discharged on IV 
meropenem
for E coli bacteremia for 10 day course. pt awoke w/ nausea
today, temp 99.0 and chills, was referred in by his oncologist
due to concern for biliary obstruction and/or cholangitis.  does
endorse some mild RUQ pain, discomfort esp if he has to cough. 
Pt
denies SOB/CP. No dysuria, no diarrhea/constipation.  BM 
regular,
no melena or hematochezia. No cough, has lingering sore throat
since admission last month but improving no difficulty
swallowing.
He has two external drains, one capped and one that drains to
gravity, typically gets 30=40cc out daily, none today. he also
opened the ___ drain to a bag and has had no output there 
either.
has been eating w/o any problem other than nausea. 
VS in ED 17:26  0  99.2  75  137/61  16  97% RA 
noted to have elevated bili
was given IV meropenem and admitted to oncology. 
on arrival to floor reports feeling better than earlier in the
day. 
 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p PTBD
___ and perc cholecystostomy tube ___
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 

history of malignancy
 
Physical Exam:
General:  NAD
VITAL SIGNS: T 97.8 BP 116/65 HR 54 RR 18 O2 98%RA
HEENT:  MMM, no OP lesions
Neck: supple
CV:  RR, NL S1S2
PULM:  CTAB nonlabored
ABD:  Soft, NTND, R external drains w/o erythema or discharge at
insertion sites.
EXT:  warm well perfused, no edema
SKIN:  No rashes or skin breakdown
NEURO:  Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 07:40AM BLOOD WBC-3.2* RBC-4.02* Hgb-11.8* Hct-36.3* 
MCV-90 MCH-29.4 MCHC-32.5 RDW-14.3 RDWSD-47.7* Plt Ct-81*
___ 07:20AM BLOOD ___
___ 07:40AM BLOOD Glucose-119* UreaN-15 Creat-0.6 Na-139 
K-3.9 Cl-104
___ 08:15PM BLOOD ALT-58* AST-51* AlkPhos-207* TotBili-1.6* 
DirBili-0.6* IndBili-1.0
___ 07:40AM BLOOD ALT-47* AST-47* AlkPhos-199* TotBili-0.4
___ 07:40AM BLOOD Mg-1.9
CXR: No acute cardiopulmonary process.
Cholangiogram:
FINDINGS: 
1. Patent percutaneous cholecystostomy tube. 
2. Cholangiogram showing obstruction of the distal segment of 
the internal/external PTBD. 
3. Successful exchange of existing percutaneous transhepatic 
biliary drainage catheters with new 8 ___ PTBD.  
IMPRESSION:  
Successful exchange of existing percutaneous transhepatic 
biliary drainage 
catheters with new 8 ___ PTBD.  Catheters were attached to a 
bag for 
external drainage. 
 
Brief Hospital Course:
___ yr old male with stage IV cholangiocarcinoma previously 
treated with chemoradiation now on active surveillance since 
___ who was admitted with concern for recurrent cholangitis and 
biliary obstruction.

Biliary Obstruction
- The patient was started on antibiotics initially with 
meropenum, given recent culture results, for concern for 
cholangitis. ___ was consult and performed a cholangiogram which 
showed that his PTC was draining fine but his PTBD was 
obstructed and likely the cause of his pain, nausea, and mild 
temperature elevation so this was replaced. The following day 
the PTBD was capped as it has been previously and the patient 
tolerated this well with no pain, nausea, or increase in 
bilirubin. ID was consulted and did not feel the patient needed 
further antibiotic therapy because his course seemed consistent 
with a biliary obstruction without cholangitis. He will have 
home care to assist with his drain care as an outpatient.
 
Cholangiocarcinoma
- Not currently receiving treatment. He will follow up with his 
primary oncologist as an outpatient.

Thromobcytopenia - longstanding, at recent baseline.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 2.5 mg PO QAM 
2. Dronabinol 5 mg PO QHS 
3. Finasteride 5 mg PO QPM 
4. Pantoprazole 40 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 
6. Atenolol 50 mg PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Dronabinol 2.5 mg PO QAM 
3. Dronabinol 5 mg PO QHS 
4. Finasteride 5 mg PO QPM 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Pantoprazole 40 mg PO QPM 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangiocarcinoma
Biliary Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were found to have a blocked biliary drainage tube and this 
was replaced by the interventional radiologist. You were briefly 
on antibiotics but were seen by infectious disease and 
determined these were not necessary at this time and your blood 
cultures remained negative.
 
Followup Instructions:
___